data/mechanism_extracts/ChemElectroChem/10.1002_celc.202101013.json
{"doi": "10.1002_celc.202101013", "journal": "ChemElectroChem", "is_review": false, "rxn_class_summary": "Electrochemical oxidative selenocyclization of N-(2-vinylphenyl)benzamides with diaryl/dialkyl diselenides to afford selenium-containing benzoxazines.", "mechanism_family": ["radical_anodic", "radical_polar_crossover", "paired_electrolysis"], "electrochemical_role": "Anodic oxidation of diphenyl diselenide (PhSeSePh) to a cationic radical that fragments into PhSe• and PhSe+; further anodic oxidation of a carbon-centered radical intermediate to a benzylic carbocation; cathodic reduction of H+ to H2 and PhSe+ back to diselenide.", "key_intermediates": [{"name": "PhSeSePh radical cation", "smiles": "[Se+](c1ccccc1)[Se](c1ccccc1)", "role": "transient"}, {"name": "phenylselenyl radical (PhSe•)", "smiles": "[Se]c1ccccc1", "role": "reactive"}, {"name": "phenylselenyl cation (PhSe+)", "smiles": "[Se+]c1ccccc1", "role": "reactive"}, {"name": "benzylic carbon radical from PhSe• addition to styrene", "smiles": "O=C(c1ccccc1)Nc1ccccc1C([CH2][Se]c1ccccc1)", "role": "transient"}, {"name": "benzylic carbocation after anodic oxidation", "smiles": "O=C(c1ccccc1)Nc1ccccc1[CH+]C[Se]c1ccccc1", "role": "reactive"}], "electron_flow": "Anode oxidizes PhSeSePh (Eox ~1.70 V, lower than substrate 1a at 1.90 V) to a radical cation that splits into PhSe• and PhSe+; PhSe• adds to the styrenyl alkene of 1a giving a benzylic C-radical, which is further oxidized at the anode to a carbocation, then intramolecular O-nucleophilic attack by the amide oxygen and deprotonation furnishes the benzoxazine; at the cathode, H+ is reduced to H2 and PhSe+ is reduced back to ½ PhSeSePh.", "rate_determining_step": null, "probe_reagents": [{"name": "TEMPO", "smiles": "CC1(C)CCCC(C)(C)N1[O]", "purpose": "radical_trap", "observation": "Only trace product formed; reaction inhibited, supporting radical pathway."}, {"name": "BHT", "smiles": "Cc1cc(C(C)(C)C)c(O)c(C(C)(C)C)c1", "purpose": "radical_trap", "observation": "Only trace product; reaction significantly inhibited."}, {"name": "1,1-diphenylethylene (DPE)", "smiles": "C(=C)(c1ccccc1)c1ccccc1", "purpose": "radical_trap", "observation": "Only trace product; reaction inhibited, consistent with radical intermediate."}], "evidence_types_used": ["intermediate_trap_TEMPO", "intermediate_trap_BHT", "intermediate_trap_other", "cyclic_voltammetry"], "evidence_strength": "medium", "notes": "CV shows PhSeSePh is oxidized preferentially over substrate 1a, supporting selenide-first oxidation rather than direct alkene oxidation. Mechanism is a radical-polar crossover with paired electrochemistry (productive anodic oxidations and H2-evolving cathode)."}
